US07635715B2
Step B: Preparation of 2-(2-hydroxy-1,1-dimethyl-7-(2-morpholinoethylamino)-4-oxo-1,4-dihydronaphthalene-3-carboxamido)acetic acid
Tert-butyl 2-(2-hydroxy-1,1-dimethyl-7-(2-morpholinoethylamino)-4-oxo-1,4-dihydronaphthalene-3-carboxamido)acetate (25 mg, 53 μmol) was dissolved in TFA (2 mL) at room temperature for 30 minutes and concentrated to give crude product. The crude product was purified via preparatory TLC to give the title compound. MS (ESI) m/z: Calculated; 417.5: Observed; 418.1.

reactant | Tert-butyl 2-(2-hydroxy-1,1-dimethyl-7-(2-morpholinoethylamino)-4-oxo-1,4-dihydronaphthalene-3-carboxamido)acetate | 53 μmol, 25 mg | OC=1C(C2=CC(=CC=C2C(C1C(=O)NCC(=O)OC(C)(C)C)=O)NCCN1CCOCC1)(C)C | C25H35N3O6
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(2-hydroxy-1,1-dimethyl-7-(2-morpholinoethylamino)-4-oxo-1,4-dihydronaphthalene-3-carboxamido)acetic acid | OC=1C(C2=CC(=CC=C2C(C1C(=O)NCC(=O)O)=O)NCCN1CCOCC1)(C)C | C21H27N3O6
